### PR TITLE
[Merged by Bors] - feat: port Analysis.Calculus.FDerivMeasurable

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

Open questions:

* [ ] did I get the capitalization around A/B/D right?
* [ ] should the failing `simp` calls be investigated before merging?
* [ ] should the failing `apply_rules` calls be investigated before merging?

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 1]
```diff
@@ -185,11 +184,11 @@ theorem mem_a_of_differentiable {ε : ℝ} (hε : 0 < ε) {x : E} (hx : Differen
         (mul_le_mul_of_nonneg_left (le_of_lt (mem_ball_iff_norm.1 hz)) (le_of_lt (half_pos hε)))
         (mul_le_mul_of_nonneg_left (le_of_lt (mem_ball_iff_norm.1 hy)) (le_of_lt (half_pos hε))))
     _ = ε * r := by ring
-    
-#align fderiv_measurable_aux.mem_A_of_differentiable FderivMeasurableAux.mem_a_of_differentiable
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:187]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 2]
```diff
@@ -201,56 +200,51 @@ theorem norm_sub_le_of_mem_a {c : 𝕜} (hc : 1 < ‖c‖) {r ε : ℝ} (hε : 0
...
+        · simp only [dist_eq_norm, add_sub_cancel', mem_closedBall, ylt.le]
+      · apply le_of_mem_a h₁
+        · simp only [le_of_lt (half_pos hr), mem_closedBall, dist_self]
+        · simp only [dist_eq_norm, add_sub_cancel', mem_closedBall, ylt.le]
     _ = 2 * ε * r := by ring
     _ ≤ 2 * ε * (2 * ‖c‖ * ‖y‖) := (mul_le_mul_of_nonneg_left ley (mul_nonneg (by norm_num) hε.le))
     _ = 4 * ‖c‖ * ε * ‖y‖ := by ring
-    
-#align fderiv_measurable_aux.norm_sub_le_of_mem_A FderivMeasurableAux.norm_sub_le_of_mem_a
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:212]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 3]
```diff
@@ -272,27 +266,28 @@ theorem d_subset_differentiable_set {K : Set (E →L[𝕜] F)} (hK : IsComplete
...
       _ ≤ ‖L e p q - L e p r‖ + ‖L e p r - L e' p' r‖ + ‖L e' p' r - L e' p' q'‖ :=
         (le_trans (norm_add_le _ _) (add_le_add_right (norm_add_le _ _) _))
-      _ ≤ 4 * ‖c‖ * (1 / 2) ^ e + 4 * ‖c‖ * (1 / 2) ^ e + 4 * ‖c‖ * (1 / 2) ^ e := by
-        apply_rules [add_le_add]
+      _ ≤ 4 * ‖c‖ * (1 / 2) ^ e + 4 * ‖c‖ * (1 / 2) ^ e + 4 * ‖c‖ * (1 / 2) ^ e :=
+        add_le_add (add_le_add J1 J2) J3
+        -- Porting note: proof was `by apply_rules [add_le_add]`
       _ = 12 * ‖c‖ * (1 / 2) ^ e := by ring
-      
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:290]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 4]
```diff
@@ -308,27 +303,27 @@ theorem d_subset_differentiable_set {K : Set (E →L[𝕜] F)} (hK : IsComplete
       _ < 12 * ‖c‖ * (ε / (12 * ‖c‖)) :=
         (mul_lt_mul' le_rfl he (le_of_lt P) (mul_pos (by norm_num) cpos))
       _ = ε := by field_simp [(by norm_num : (12 : ℝ) ≠ 0), ne_of_gt cpos] ; ring
-      
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:306]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 5]
```diff
@@ -367,7 +361,7 @@ theorem d_subset_differentiable_set {K : Set (E →L[𝕜] F)} (hK : IsComplete
         _ = 4 * (1 / 2) ^ e * (1 / 2) ^ (m + 2) := by field_simp; ring
         _ ≤ 4 * (1 / 2) ^ e * ‖y‖ :=
           mul_le_mul_of_nonneg_left (le_of_lt hk) (mul_nonneg (by norm_num) (le_of_lt P))
-        
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:364]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 6]
```diff
@@ -380,20 +374,20 @@ theorem d_subset_differentiable_set {K : Set (E →L[𝕜] F)} (hK : IsComplete
         (mul_le_mul_of_nonneg_left he.le
           (mul_nonneg (add_nonneg (by norm_num) (mul_nonneg (by norm_num) (norm_nonneg _)))
             (norm_nonneg _)))
-      _ = ε * ‖y‖ := by field_simp [ne_of_gt Pos] ; ring
-      
+      _ = ε * ‖y‖ := by field_simp [ne_of_gt pos]; ring
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:378]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 7]
```diff
@@ -563,11 +566,11 @@ theorem mem_a_of_differentiable {ε : ℝ} (hε : 0 < ε) {x : ℝ}
       · apply mul_le_mul_of_nonneg_left _ (le_of_lt (half_pos hε))
         rw [Real.norm_of_nonneg] <;> linarith [hy.1, hy.2]
     _ = ε * r := by ring
-    
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:569]:
```suggestion
```

File: Mathlib/Analysis/Calculus/FDerivMeasurable.lean [hunk 8]
```diff
@@ -581,48 +584,43 @@ theorem norm_sub_le_of_mem_a {r x : ℝ} (hr : 0 < r) (ε : ℝ) {L₁ L₂ : F}
       (norm_sub_le _ _)
     _ ≤ ε * r + ε * r := by
       apply add_le_add
-      · apply le_of_mem_A h₂ <;> simp [(half_pos hr).le]
-      · apply le_of_mem_A h₁ <;> simp [(half_pos hr).le]
+      · apply le_of_mem_a h₂ <;> simp [(half_pos hr).le]
+      · apply le_of_mem_a h₁ <;> simp [(half_pos hr).le]
     _ = r / 2 * (4 * ε) := by ring
-    
+
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/FDerivMeasurable.lean:590]:
```suggestion
```

**Comment by urkud** [comment]
LGTM. IMHO, we should merge this PR and possibly open github issues about failing `simp`/`apply_rules`.
bors d+
